US08470841B2
39b 6-(4-Benzyloxyphenoxy)pyridin-3-ylamine
2-(4-Benzyloxyphenoxy)-5-nitropyridine (7.84 g, 24.32 mmol) and zinc (15.16 g, 231.8 mmol) were suspended in 300 ml of methanol. Under argon 5.2 ml of acetic acid were slowly added dropwise at room temperature. After 1 h the mixture was filtered and the filtrate was concentrated. The crude product obtained was further reacted without purification.

reactant | 2-(4-Benzyloxyphenoxy)-5-nitropyridine | 24.32 mmol, 7.84 g | C(C1=CC=CC=C1)OC1=CC=C(OC2=NC=C(C=C2)[N+](=O)[O-])C=C1 | C18H14N2O4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 300 ml | CO | CH4O
catalyst | zinc | 231.8 mmol, 15.16 g | [Zn] | Zn
product | 6-(4-Benzyloxyphenoxy)pyridin-3-ylamine | C(C1=CC=CC=C1)OC1=CC=C(OC2=CC=C(C=N2)N)C=C1 | C18H16N2O2
